US05872118
A solution of 2-fluorocinnamic acid (48.4 g, 0.29 mol, Aldrich) and thionyl chloride (5 mL) in ethanol (650 mL) was heated to reflux for 48 h. The mixture was concentrated in vacuo. The residue was taken up in ethyl acetate, washed successively with a 5% aqueous sodium bicarbonate solution, water and brine, and dried (Na2SO4). Filtration and concentration gave 54.25 g (96%) of crude ethyl 2-fluorocinnamate. This material was used without further purification.

reactant | 2-fluorocinnamic acid | 0.29 mol, 48.4 g | FC1=C(C=CC(=O)O)C=CC=C1 | C9H7FO2
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 650 mL | C(C)O | C2H6O
product | ethyl 2-fluorocinnamate | 54.25 g, 96% | FC1=C(C=CC(=O)OCC)C=CC=C1 | C11H11FO2
